US09340546B2
In a pressure tube containing 1-(3-chloro-5-fluoro-4-pyridyl)-4-(oxetan-3-yl)piperazine (800 mg, 2.944 mmol) was added dioxane (6 mL). To this solution was added tert-butyl carbamate (517.3 mg, 4.416 mmol), Cs2CO3 (1.918 g, 5.888 mmol), xantphos (85.17 mg, 0.1472 mmol) followed by Pd2(dba)3 (134.8 mg, 0.1472 mmol). The tube was sealed and heated thermally for 60 h at 115° C. The reaction mixture was cooled to RT and filtered on a pad of celite. The cake was washed with EtOAc and the combined filtrate was concentrated in vacuo to a black oil. The residue was taken up in DCM (2 ml) and TFA (3 ml) was added. The resulting dark brown clear solution was stirred at RT for 2 h and then concentrated in vacuo. The residue was loaded onto a SCX-2 (10 g) cartridge. Flushed with MeOH (×3, CV) before eluting the desired product with 2M NH3 in MeOH (×3 CV). The basic eluent was concentrated in vacuo to afford a dark brown oil that was purified by chromatography on silica eluting with DCM-DCM:MeOH:NH3(90:10:1) a gradient of 100-0 to 30:70. Fractions containing product were collected and concentrated in vacuo to afford 5-fluoro-4-(4-(oxetan-3-yl)piperazin-1-yl)pyridin-3-amine as a light brown solid. 295 mg: MS (ES+) 253.2.

reactant | 1-(3-chloro-5-fluoro-4-pyridyl)-4-(oxetan-3-yl)piperazine | 2.944 mmol, 800 mg | ClC=1C=NC=C(C1N1CCN(CC1)C1COC1)F | C12H15ClFN3O
reactant | tert-butyl carbamate | 4.416 mmol, 517.3 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | Cs2CO3 | 5.888 mmol, 1.918 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | xantphos | 0.1472 mmol, 85.17 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2(dba)3 | 0.1472 mmol, 134.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 5-fluoro-4-(4-(oxetan-3-yl)piperazin-1-yl)pyridin-3-amine | FC=1C(=C(C=NC1)N)N1CCN(CC1)C1COC1 | C12H17FN4O
